US07790709B2
Preparation of (E)-N-Methyl-N-(4-methyl-naphthalen-1-ylmethyl)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride
According to the procedure of Example 1, except substituting (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting methyl-(4-methyl-naphthalen-1-ylmethyl)amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (175 mg, 50%) was prepared as a white solid: 1H NMR (300 MHz, DMSO-d6) δ 10.50 (br s, 1H), 10.14-10.09 (m, 1H), 8.41-8.30 (m, 1H), 8.16-7.85 (m, 3H), 7.69-7.53 (m, 3H), 7.40-7.01 (m, 3H), 5.37-4.85 (m, 4H), 4.65-4.46 (m, 2H), 3.99-3.93 (m, 2H), 3.78-3.31 (m, 6H), 3.20-2.98 (m, 5H), 2.65-2.63 (m, 3H); MS (ESI) m/e 500 (M+H)+.

reactant | (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride | Cl.N1(CCOCC1)CCN1C(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | methyl-(4-methyl-naphthalen-1-ylmethyl)amine | CNCC1=CC=C(C2=CC=CC=C12)C | C13H15N
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-N-Methyl-N-(4-methyl-naphthalen-1-ylmethyl)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride | 175 mg, 50% | Cl.CN(C(\C=C\C1=CC2=C(NC(N(C2)CCN2CCOCC2)=O)N=C1)=O)CC1=CC=C(C2=CC=CC=C12)C | InChI=1S/C29H33N5O3.ClH/c1-21-7-9-23(26-6-4-3-5-25(21)26)19-32(2)27(35)10-8-22-17-24-20-34(29(36)31-28(24)30-18-22)12-11-33-13-15-37-16-14-33;/h3-10,17-18H,11-16,19-20H2,1-2H3,(H,30,31,36);1H/b10-8+;
